US09029374B2
2-(1H-benzo[d][1,2,3]triazol-1-yl)-1,1,3,3-tetramethylisouronium tetrafluoroborate (73.3 mg, 0.23 mmol) was added to a stirred solution of 8-(1-(3-chloro-2-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (85 mg, 0.19 mmol), 4-methylmorpholine (0.052 mL, 0.48 mmol) and N1,N1-dimethylethane-1,2-diamine (0.025 mL, 0.23 mmol) dissolved in NMP (1.2 mL) at room temperature. The resulting solution was stirred for 2 hrs. The reaction mixture was purified by preparative HPLC using a Waters SunFire reverse-phase column (C-18, 5 microns silica, 19 mm diameter, 100 mm length, flow rate of 40 mL/minute) and decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent. The fractions containing the desired compound were evaporated, triturated with diethyl ether and dried to afford 8-(1-(3-chloro-2-fluorophenylamino)ethyl)-N-(2-(dimethylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxamide (59.2 mg, 60.2%) as a white solid. Mass Spectrum: M+H+ 517. NMR Spectrum: (DMSOd6) 1.57 (d, 3H), 2.15 (s, 6H), 2.37 (t, 2H), 3.26-3.34 (m partially hidden by H2O, 2H), 3.50-3.62 (m, 4H), 3.70-3.79 (m, 4H), 5.03-5.12 (m, 1H), 5.61 (s, 1H), 6.34 (dd, 1H), 6.49 (d, 1H), 6.64 (ddd, 1H), 6.82 (d, 1H), 8.10 (d, 1H), 8.32 (d, 1H), 8.61 (t, 1H).

reactant | 8-(1-(3-chloro-2-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 0.19 mmol, 85 mg | ClC=1C(=C(C=CC1)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O)F | C22H20ClFN2O5
reactant | 4-methylmorpholine | 0.48 mmol, 0.052 mL | CN1CCOCC1 | C5H11NO
reactant | N1,N1-dimethylethane-1,2-diamine | 0.23 mmol, 0.025 mL | CN(CCN)C | C4H12N2
solvent | NMP | 1.2 mL | CN1CCCC1=O | C5H9NO
product | 8-(1-(3-chloro-2-fluorophenylamino)ethyl)-N-(2-(dimethylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 59.2 mg, 60.2% | ClC=1C(=C(C=CC1)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)NCCN(C)C)F | C26H30ClFN4O4
